US07153857B2
hydroxy[4-pyrimidin-2-yl-1-({[4-(5-{[5-(trifluoromethyl)pyridin-2-yl]ethynyl}pyridin-2-yl)piperazin-1-yl]sulfonyl}methyl)butyl]formamide
To formic acid (0.36 mL, 9.5 mmol) at 0° C. was added acetic anhydride (90 μL, 0.95 mmol) and the mixture was stirred at RT for 10 minutes. The reaction was then recooled to 0° C., and added to a solution of 2-(4-(hydroxyamino)-5-{[4-(5-{[5-(trifluoromethyl)pyridin-2-yl]ethynyl}pyridin-2-yl)piperazin-1-yl]sulfonyl}pentyl)pyrimidine (403 mg, 0.79 mmol) and formic acid (0.36 mL, 9.5 mmol) in THF (3 mL) at 0° C. The reaction was brought to RT and stirred for one hour. Volatiles were then removed in vacuo, and the residue azeotroped with toluene (2×5 mL). The residue was then dissolved in MeOH (10 mL) and heated to 40° C. for one hour. The solution was then cooled to RT and concentrated in vacuo. The residue was then purified by flash chromatography (silica gel, 10% MeOH in EtOAc) to give the title compound as a pale yellow foam (66 mg, 0.11 mmol, 58%).

reactant | formic acid | 9.5 mmol, 0.36 mL | C(=O)O | CH2O2
reactant | acetic anhydride | 0.95 mmol, 90 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-(4-(hydroxyamino)-5-{[4-(5-{[5-(trifluoromethyl)pyridin-2-yl]ethynyl}pyridin-2-yl)piperazin-1-yl]sulfonyl}pentyl)pyrimidine | 0.79 mmol, 403 mg | ONC(CCCC1=NC=CC=N1)CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=C1)C#CC1=NC=C(C=C1)C(F)(F)F | C26H28F3N7O3S
reactant | formic acid | 9.5 mmol, 0.36 mL | C(=O)O | CH2O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | hydroxy[4-pyrimidin-2-yl-1-({[4-(5-{[5-(trifluoromethyl)pyridin-2-yl]ethynyl}pyridin-2-yl)piperazin-1-yl]sulfonyl}methyl)butyl]formamide | 0.11 mmol, 66 mg, 58% | ON(C=O)C(CCCC1=NC=CC=N1)CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=C1)C#CC1=NC=C(C=C1)C(F)(F)F | C27H28F3N7O4S
